US09399651B2
To a solution of 3-(benzyloxy)-1-[1-(2-chlorobenzyl)-1H-benzimidazol-4-yl]pyridin-4(1H)-one (2.6 g, 5.9 mmol) in DCM (40 mL) was added ethanethioi (4 mL) and BF3 Et20 (4 mL) and the mixture was stirred at r.t. for 4 h. The mixture was diluted with MeOH, stirred for 10 min, then concentrated. The residue obtained was purified by prep-HPLC to give 1.2 g (58%) of 1-[1-(2-chlorobenzyl)-1H-benzimidazol-4-yl]-3-hydroxypyridin-4(1H)-one. ′H-NMR (CD3OD, 400 MHz) δ 8.48-8.44 (m, 3H), 7.78 (d, J−7.6 Hz, 1H), 7.58-7.51 (m, 3H), 7.41-7.25 (m, 4H), 5.75 (s, 2H). MS (ESI) (M+H 352.1/354.1.

reactant | 3-(benzyloxy)-1-[1-(2-chlorobenzyl)-1H-benzimidazol-4-yl]pyridin-4(1H)-one | 5.9 mmol, 2.6 g | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C1=CC=CC=2N(C=NC21)CC2=C(C=CC=C2)Cl | C26H20ClN3O2
reactant | ethanethioi | 4 mL | C(C)S | C2H6S
reactant | BF3 | B(F)(F)F | BF3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 1-[1-(2-chlorobenzyl)-1H-benzimidazol-4-yl]-3-hydroxypyridin-4(1H)-one | 1.2 g, 58% | ClC1=C(CN2C=NC3=C2C=CC=C3N3C=C(C(C=C3)=O)O)C=CC=C1 | C19H14ClN3O2
